US08242280B2
Step 3: Synthesis of 2-{6-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyrazin-2-yl}-N,N-dimethyl-acetamide
Crude {6-[3-(2-Methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyrazin-2-yl}-acetic acid (0.55 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) (251 mg, 0.66 mmol), and di-iso-propylamine (114.9 μL, 0.66 mmol) were dissolved in tetrahydrofuran (5 mL) and 2 M dimethylamine (412 μL, 0.825 mmol) was added. The mixture was heated to 60° C. in a capped vial for 30 minutes, cooled, diluted with ethyl acetate and washed with saturated sodium bicarbonate (1×), saturated ammonium chloride (1×) and brine (1×). The organics were dried over sodium sulfate, filtered and concentrated to yield a yellow foam (305 mg, >100%). The crude material was used without further purification in the next step.

reactant | {6-[3-(2-Methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyrazin-2-yl}-acetic acid | 0.55 mmol | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C2=CN=CC(=N2)CC(=O)O)S(=O)(=O)C2=CC=C(C=C2)C | C27H22N4O5S
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.66 mmol, 251 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | di-iso-propylamine | 0.66 mmol, 114.9 μL | C(C)(C)NC(C)C | C6H15N
reactant | dimethylamine | 0.825 mmol, 2 M, 412 μL | CNC | C2H7N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{6-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyrazin-2-yl}-N,N-dimethyl-acetamide | 305 mg, >100% | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C2=CN=CC(=N2)CC(=O)N(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C29H27N5O4S
